US07419975B2
1-(1-Naphthalen-1-yl-ethyl)-aziridine-2-carboxylic acid methyl ester (1).
To a solution of (S)-(−)-1-(1-naphthyl)ethylamine (20.8 g, 120 mmol) in acetonitrile (HPLC grade, 600 mL) is added K2CO3 (52.7 g, 360 mmol) and methyl 2,3-dibromopropionate (30 g, 120 mmol). The solution is stirred overnight at room temperature. The solution is evaporated to dryness, then H2O/EtOAc (1:1) (600 mL) is added, and the mixture is extracted with EtOAc (4×100 mL). The organic extracts are combined, dried and concentrated under vacuum. The residue is purified by flash chromatography (silica gel; Hexane/EtOAc 1:2) to provide 24 g (78%) of the title compound as a mixture of two diastereomers in an equimolecular ratio. M+H+=256.10.

reactant | (S)-(−)-1-(1-naphthyl)ethylamine | 120 mmol, 20.8 g | C1(=CC=CC2=CC=CC=C12)[C@H](C)N | C12H13N
reactant | K2CO3 | 360 mmol, 52.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl 2,3-dibromopropionate | 120 mmol, 30 g | BrC(C(=O)OC)CBr | C4H6Br2O2
solvent | acetonitrile | 600 mL | C(C)#N | C2H3N
product | 1-(1-Naphthalen-1-yl-ethyl)-aziridine-2-carboxylic acid methyl ester | 24 g, 78% | COC(=O)C1N(C1)C(C)C1=CC=CC2=CC=CC=C12 | C16H17NO2
